US05552471
In the second preferred activating procedure, the T-CA is treated with a phosgene equivalent (approx. 1.1 equivalent), e.g., 4-nitrophenylchloroformate, and a tertiary amine (approx. 1.1 equivalent), e.g., diisopropylethylamine, in an aprotic solvent, e.g., pyridine, at between 0° and 25° C. for between 10 min and 2 hrs to give the active T-CA linker.

reactant | phosgene | approx. 1.1 equivalent | C(=O)(Cl)Cl | CCl2O
reactant | 4-nitrophenylchloroformate | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
